US05618821
A suspension of 0.65 g (1.1 eq) of 95% NaH in 22 ml of toluene was slowly added to 3.8 g (1 eq) of methyl diethylphosphonoacetate in 5 ml of dry toluene below 35° C. The clear yellow solution was allowed to stir under nitrogen at room temperature for 30 min and a solution of 2.5 g (18.2 mmol) of 2-methoxy-pyridine-5-carboxaldehyde in 10 ml of toluene was added dropwise while maintaining the reaction temperature below 40° C. After the addition, the mixture was heated at 65° C. for 30 min, cooled, and filtered through solka floc and concentrated in vacuo to yield 3 g (85.7%) of methyl β-(2-methoxypyridin-5-yl)acrylate (cis/trans mixture).

reactant | NaH | 0.65 g, 1.1 eq | [H-].[Na+]
reactant | methyl diethylphosphonoacetate | 3.8 g, 1 eq | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | 2-methoxy-pyridine-5-carboxaldehyde | 18.2 mmol, 2.5 g | COC1=NC=C(C=C1)C=O | C7H7NO2
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl β-(2-methoxypyridin-5-yl)acrylate | 3 g, 85.7% | COC1=NC=C(C=C1)C=CC(=O)OC | C10H11NO3
